US09079880B2
Synthesis of 3-[(3-cyano-phenylcarbamoyl)-methoxy]-N-(5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-benzamide (Compound 3)
Add 5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylamine (0.03 g, 0.18 mmol) followed by O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyl uranium hexafluorophosphate (0.07 g, 0.18 mmol) and N,N-diisopropylethyl amine (0.10 mL, 0.54 mmol) to a solution of 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid (0.05 g, 0.17 mmol) in N,N-dimethylformamide (2 mL). Sir the mixture at room temperature for 15 h then dilute with water causing a solid to precipitate from solution. Collect the solid by filtration, wash with water and dry on the filter pad. Triturate the crude product with methylene chloride and dry on the filter pad to provide 0.020 g of the title compound as a powder. MS, electrospray 448.96 (M+H), rt. 1.13 min.

reactant | 5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylamine | 0.18 mmol, 0.03 g | CN1CC2=C(CC1)N=C(S2)N | C7H11N3S
reactant | N,N-diisopropylethyl amine | 0.54 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid | 0.17 mmol, 0.05 g | C(#N)C=1C=C(C=CC1)NC(=O)COC=1C=C(C(=O)O)C=CC1 | C16H12N2O4
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[(3-cyano-phenylcarbamoyl)-methoxy]-N-(5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 0.020 g | C(#N)C=1C=C(C=CC1)NC(=O)COC=1C=C(C(=O)NC=2SC=3CN(CCC3N2)C)C=CC1 | C23H21N5O3S
